US06797718B2
4-chloro-2,6,7-trimethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridine
2-Chloro-5,6-dimethyl-N4-(2-phenoxyethyl)pyridine-3,4-diamine (2.41 g), triethyl orthoacetate (1.60 ml), toluene (20 ml), and a catalytic amount of pyridine HCl were combined and heated to reflux for 2 hours. Methanol (15 ml) was then added and the reaction mixture was allowed to cool. The resulting white needles were filtered and dried. NMR analysis of the dried solid indicated a pure product.

reactant | 2-Chloro-5,6-dimethyl-N4-(2-phenoxyethyl)pyridine-3,4-diamine | 2.41 g | ClC1=NC(=C(C(=C1N)NCCOC1=CC=CC=C1)C)C | C15H18ClN3O
reactant | triethyl orthoacetate | 1.60 ml | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | pyridine HCl | Cl.N1=CC=CC=C1
solvent | Methanol | 15 ml | CO | CH4O
product | 4-chloro-2,6,7-trimethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridine | ClC1=NC(=C(C2=C1N=C(N2CCOC2=CC=CC=C2)C)C)C | C17H18ClN3O
